US06197783B1
10. 7,8-Dihydroxy-2,3-dimethyl-9-phenyl-7,8,9,10-tetrahydroimidazo[1,2-h][1,7]naphthyridine
700 mg of 8-hydroxy-2,3-dimethyl-9-phenyl-7,8,9,10-tetrahydroimidazo[1,2-h][1,7]-naphthyridin-7-one are suspended in 15 ml of methanol and treated with 200 mg of sodium borohydride in portions at room temperature with stirring. After stirring for 2 hours, the mixture is poured onto 100 ml of ice water. The precipitate which is deposited is filtered off, briefly dried in vacuo and recrystallized from a little 2-propanol. 500 mg of the title compound of melting point 150-2° C. are obtained.

reactant | 8-hydroxy-2,3-dimethyl-9-phenyl-7,8,9,10-tetrahydroimidazo[1,2-h][1,7]-naphthyridin-7-one | 700 mg | OC1C(NC=2C=3N(C=CC2C1=O)C(=C(N3)C)C)C3=CC=CC=C3 | C18H17N3O2
reactant | sodium borohydride | 200 mg | [BH4-].[Na+]
solvent | methanol | 15 ml | CO | CH4O
product | 7,8-Dihydroxy-2,3-dimethyl-9-phenyl-7,8,9,10-tetrahydroimidazo[1,2-h][1,7]naphthyridine | 500 mg | OC1C(C(NC=2C=3N(C=CC12)C(=C(N3)C)C)C3=CC=CC=C3)O | C18H19N3O2
